US05952321
Step A: 3,3-Diethyl-1-[(R)-α-(allyl)-4-(methyl)benzylaminocarbonyl]-4-(S)-[4-{1-(RS)-(N,N-diethylamino)-2-methoxyethyl}phenoxy]azeti-din-2-one
According to the procedure given in Example 21, Step D, 86 mg (0.18 mmol) of 3,3-diethyl-1-[(R)-α-(allyl)-4-(methyl)benzylaminocarbonyl]-4-(S)-[4-(1-(RS)-(hydroxy)-2-methoxyethyl) phenoxy]azetidin-2-one, 98 mg (0.23 mmol) of triphenylphosphine dibromide and ca. 0.3 mL of diethylamine gave after purification on 15 gm of silica eluting with 500 mL of 98:2 methylene chloride: methanol then 200 mL of 97.5:2.5 methylene chloride: methanol 44 mg (46%) of an oil.

reactant | 3,3-diethyl-1-[(R)-α-(allyl)-4-(methyl)benzylaminocarbonyl]-4-(S)-[4-(1-(RS)-(hydroxy)-2-methoxyethyl) phenoxy]azetidin-2-one | 0.18 mmol, 86 mg | C(C)C1(C(N([C@H]1OC1=CC=C(C=C1)C(COC)O)C(=O)N[C@@H](C1=CC=C(C=C1)C)CC=C)=O)CC | C28H36N2O5
reactant | triphenylphosphine dibromide | 0.23 mmol, 98 mg | [Br-].[Br-].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
reactant | diethylamine | ca. 0.3 mL | C(C)NCC | C4H11N
product | 3,3-Diethyl-1-[(R)-α-(allyl)-4-(methyl)benzylaminocarbonyl]-4-(S)-[4-{1-(RS)-(N,N-diethylamino)-2-methoxyethyl}phenoxy]azeti-din-2-one | C(C)C1(C(N([C@H]1OC1=CC=C(C=C1)C(COC)N(CC)CC)C(=O)N[C@@H](C1=CC=C(C=C1)C)CC=C)=O)CC | C32H45N3O4
